US07932394B2
2.53 g of potassium carbonate and 1 ml of water were added to a methanol (15 ml) solution of 2.47 g of methyl 2-(acetyloxy)-4-azidobutanoate, and stirred at room temperature for 30 minutes. Aqueous saturated ammonium chloride solution was added to the reaction liquid, and extracted with ethyl acetate. The organic layer was washed with saturated saline water and dried. The solvent was evaporated away under reduced pressure to obtain 591 mg of methyl 4-azido-2-hydroxybutanoate as an orange oil.

reactant | potassium carbonate | 2.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1 ml | O | H2O
reactant | methyl 2-(acetyloxy)-4-azidobutanoate | 2.47 g | C(C)(=O)OC(C(=O)OC)CCN=[N+]=[N-] | C7H11N3O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 15 ml | CO | CH4O
product | methyl 4-azido-2-hydroxybutanoate | 591 mg | N(=[N+]=[N-])CCC(C(=O)OC)O | C5H9N3O3
